US09062028B2
Step B. 9-Bromo-3-(tert-butyldimethylsilyloxy)-2,3,4,5-tetrahydrobenzo-[b][1,4]oxazepine
To a solution of 9-bromo-2,3,4,5-tetrahydrobenzo[b][1,4]oxazepin-3-ol (0.456 g, 1.868 mmol) and imidazole (0.280 g, 4.11 mmol) in DMF (5.0 mL) was added TBSCl (0.619 g, 4.11 mmol). The reaction was stirred at room temperature for 18 h. The mixture was diluted with a solution of saturated sodium bicarbonate (15 ml) and extracted with ethyl acetate (20 mL). The organic layer was dried over sodium sulfate and concentrated. The crude product was purified by flash chromatography (0-50% ethyl acetate:hexanes) to afford the title compound (648 mg, 1.718 mmol, 92% yield) as clear oil. LCMS, [M+H]+=360.1. 1H NMR (400 MHz, CDCl3) δ 6.99 (dd, J=7.8, 1.4 Hz, 1H), 6.69 (t, J=7.9 Hz, 1H), 6.57 (dd, J=7.9, 1.5 Hz, 1H), 4.39 (dd, J=11.9, 4.8 Hz, 1H), 4.19 (tt, J=6.5, 4.7 Hz, 1H), 3.94 (dd, J=11.9, 6.8 Hz, 1H), 3.67 (br. s., 1H), 3.54 (dt, J=13.2, 4.1 Hz, 1H), 3.17 (dd, J=12.3, 5.5 Hz, 1H), 0.93-0.90 (m, 9H), 0.11 (s, 6H).

reactant | 9-bromo-2,3,4,5-tetrahydrobenzo[b][1,4]oxazepin-3-ol | 1.868 mmol, 0.456 g | BrC1=CC=CC2=C1OCC(CN2)O | C9H10BrNO2
reactant | imidazole | 4.11 mmol, 0.280 g | N1C=NC=C1 | C3H4N2
reactant | TBSCl | 4.11 mmol, 0.619 g | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
solvent | DMF | 5.0 mL | CN(C)C=O | C3H7NO
solvent | sodium bicarbonate | 15 ml | C([O-])(O)=O.[Na+]
product | 9-Bromo-3-(tert-butyldimethylsilyloxy)-2,3,4,5-tetrahydrobenzo-[b][1,4]oxazepine | 1.718 mmol, 648 mg, 92% yield | BrC1=CC=CC2=C1OCC(CN2)O[Si](C)(C)C(C)(C)C | C15H24BrNO2Si
